US06573377B1
(1) (3S)-1-(3,5-Difluorophenyl)-3-methylpiperazine
A mixture composed of 2.48 g of (S)-2-methylpiperazine, 3.97 g of 3,5-difluorobromobenzene, 2.76 g of sodium tert-butoxide, 326 mg of dichlorobis[(tri-ortho-tolyl)phosphine]palladium (II) (PdCl2[P(o-tolyl)3]2) and 100 ml of toluene was stirred at 100° C. for 24 hours in an atmosphere of nitrogen. After removal of the insoluble matter by filtration, the filtrate was washed with water and then with saturated brine. The organic layer was dried with anhydrous sodium sulfate and then concentrated under a reduced pressure, the residue was applied to a silica gel column chromatography (270 to 400 mesh, 100 g) and developed with a methanol-chloroform (6:94) mixed solvent, and then the fractions containing the compound of interest were concentrated to obtain 1.89 g of the title compound.

reactant | (S)-2-methylpiperazine | 2.48 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | 3,5-difluorobromobenzene | 3.97 g | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | sodium tert-butoxide | 2.76 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (3S)-1-(3,5-Difluorophenyl)-3-methylpiperazine | 1.89 g | FC=1C=C(C=C(C1)F)N1C[C@@H](NCC1)C | C11H14F2N2
